US08729102B2
E) tert-butyl [(1S)-2-(4-amino-3-fluorophenoxy)-1-methylethyl]carbamate
Under a hydrogen atmosphere, a mixture of tert-butyl [(1S)-2-(3-fluoro-4-nitrophenoxy)-1-methylethyl]carbamate (10.2 g), 10% palladium/carbon (containing water (50%), 500 mg) and ethanol (150 mL) was stirred at room temperature for 1 hr. The catalyst was removed by filtration, and the obtained filtrate was concentrated under reduced pressure to give the title compound as a brown solid (8.64 g).

reactant | tert-butyl [(1S)-2-(3-fluoro-4-nitrophenoxy)-1-methylethyl]carbamate | 10.2 g | FC=1C=C(OC[C@H](C)NC(OC(C)(C)C)=O)C=CC1[N+](=O)[O-] | C14H19FN2O5
catalyst | palladium/carbon | 500 mg | [Pd] | Pd
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | tert-butyl [(1S)-2-(4-amino-3-fluorophenoxy)-1-methylethyl]carbamate | 8.64 g | NC1=C(C=C(OC[C@H](C)NC(OC(C)(C)C)=O)C=C1)F | C14H21FN2O3
